Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___ w/ back pain ___ years with L4-5 and L5-S1 disc protrusion 
with moderate spinal stenosis. Radiculopathy of L5 nerve root
 
Major Surgical or Invasive Procedure:
Microdiscectomy L4-5 
 
History of Present Illness:
___ with chronic history of lower back pain presents with 
worsening back pain.  She has known disc protrusion at L4-5 and 
L5-S1 with moderate central spinal stenosis, diagnosed on MRI 
___. She states that the pain first started when she was ___ 
years ago after she was hit on the left side of her back.  She 
states that her symptoms have waxed and waned since that time.  
She had been treated with four steroid injections at ___ 
and physical therapy with transient relief.

She presents today with worsening of her symptoms over the past 
several months.  She was scheduled to see Dr. ___ in clinic 
later this month, but the pain has worsened and so she presents 
to the ED today.  She has mild numbness around her great toe, 
denies weakness.  She denies urinary retention or fecal 
incontinence.  Denies fevers or chills.  Denies history of IVDU.

 
Past Medical History:
iron deficiency anemia

 
Social History:
___
Family History:
N/a
 
Physical Exam:
Vitals:97 66 125/78 15 100%
Gen: NAD
Heart: RRR
Lungs: CTABL
Ab: soft NT/ND

Spine exam:
Vascular
Radial: L2+, R2+
DPR: L2+, R2+

Motor-
  Delt Bic Tri WrE FFl FE IO  IP  glut Quad Ham TA Gastroc
L  5    ___   ___   5   5    5    5   5    5
R  5    ___   ___   5   5    5    5   5    5

-Sensory:
Sensory UE
C5 (Ax)  R nl, L nl
C6 (MC)  R nl, L nl
C7 (Mid finger) R nl, L nl
C8 (MACN)  R nl, L nl
T1 (MBCN)  R nl, L nl
T2-L2 Trunk R nl, L nl
Sensory ___
L2 (Groin): R nl, L nl
L3 (Leg) R nl, L nl
L4 (Knee) R nl, L nl
L5 (Grt Toe): R nl, L nl
S1 (Sm toe): R nl, L nl
S2 (Post Thigh): R nl, L nl

-DTRs:
  ___ Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2

___: neg
Babinski: downgoing
Clonus: none
Perianal sensation: intact

 
Pertinent Results:
MRI: 
 This patient has lumbar disc protrusion at L4-5 causing a 
moderate degree of spinal stenosis. 
 
Brief Hospital Course:
Patient was admitted to hospital and an MRI lumbar spine was 
obtained. After a lengthy discussion with the family and patient 
it was decided to do an L4-5 microdiscectomy. Date of surgery 
was ___.
She did well after surgery and was discharged the same day.

 
Medications on Admission:
iron and vitamin D supplements

 
Discharge Medications:
Same and percocet ___ tabs q 6hrs prn 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L5 radiculopathy 
 
Discharge Condition:
Good,stable, alert and oriented x 3 

 
Discharge Instructions:
You have undergone the following operation: Minimally Invasive 
Microdiscectomy
Immediately after the operation:
•                Activity: You should not lift anything greater 
than 10 lbs for 2 weeks. You will be more comfortable if you do 
not sit or stand more than ~45 minutes without moving around.
•                Rehabilitation/ Physical Therapy:
___                ___ times a day you should go for a walk 
for ___ minutes as part of your recovery.  You can walk as 
much as you can tolerate.
___                Limit any kind of lifting.
•                Diet: Eat a normal healthy diet. You may have 
some constipation after surgery.
•                Brace: You do not need a brace.
•                Wound Care: Remove the dressing in 2 days.  If 
the incision is draining cover it with a new sterile dressing.  
If it is dry then you can leave the incision open to the air.  
Once the incision is completely dry (usually ___ days after the 
operation) you may take a shower. Do not soak the incision in a 
bath or pool.  If the incision starts draining at anytime after 
surgery, do not get the incision wet. Cover it with a sterile 
dressing.  Call the office.
•                You should resume taking your normal home 
medications.
•                You have also been given Additional Medications 
to control your pain.  Please allow 72 hours for refill of 
narcotic prescriptions, so please plan ahead.  You can either 
have them mailed to your home or pick them up at the clinic 
located on ___.  We are not allowed to call in narcotic 
prescriptions (oxycontin, oxycodone, percocet) to the pharmacy.  
In addition, we are only allowed to write for pain medications 
for 90 days from the date of surgery.
•                Follow up:        
___                Please Call the office and make an 
appointment for 2 weeks after the day of your operation if this 
has not been done already.
___                At the 2-week visit we will check your 
incision, take baseline X-rays and answer any questions. We may 
at that time start physical therapy.
___                We will then see you at 6 weeks from the 
day of the operation and at that time release you to full 
activity.
Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound

Physical Therapy:
Regular activity.
Stay away from lifting, bending and twisting movements
Treatments Frequency:
Percocet ___ tabs every ___ hours 
 
Followup Instructions:
___